US08871782B2
7-(Benzyloxy)-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline (8.3 g, 20.7 mmol) was added to a Parr vessel containing 10% palladium on carbon (1.5 g) wetted with acetonitrile. Methanol (160 mL) was added and the vessel was placed on the hydrogenator. The vessel was degassed three times and charged with 50 psi (3.4×105 Pa) hydrogen. The vessel was allowed to shake for 16 hours, replenishing the hydrogen as needed. The catalyst was removed by filtration through glass fiber filter paper. The catalyst was washed with 3:1 chloroform/methanol. The filtrates were combined. Evaporation under reduced pressure afforded 6.1 g of 2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-ol as a gray solid.

reactant | 7-(Benzyloxy)-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinoline | 20.7 mmol, 8.3 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCOCC3)CC | C25H27N3O2
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | Methanol | 160 mL | CO | CH4O
product | 2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 6.1 g | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC1CCOCC1 | C18H21N3O2
